US07151105B2
Step 1: 1-Methyl-2-nitro-4-propoxy-benzene
Potassium carbonate (13.5 g, 0.098 mol) followed by 1-iodopropane (9.56 mL, 0.098 mol) were added to a solution of 4-methyl-3-nitro-phenol (15 g, 0.098 mol) in DMF (100 mL). The mixture was stirred for 5 hours and then partitioned between H2O and EtOAc. The organic layer was washed with satd NaHCO3, brine, dried over Na2SO4 and concentrated to a clear oil (17.5 g).

reactant | Potassium carbonate | 0.098 mol, 13.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 0.098 mol, 9.56 mL | ICCC | C3H7I
reactant | 4-methyl-3-nitro-phenol | 0.098 mol, 15 g | CC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-Methyl-2-nitro-4-propoxy-benzene | CC1=C(C=C(C=C1)OCCC)[N+](=O)[O-] | C10H13NO3
